US05716972
N-(4-Fluorobenzoyl)phenylglycine, ethyl ester.
To a solution of ethyl phenylglycine, hydrochloride (prepared above) in CH3CN (60 mL) were added 4-fluorobenzoyl chloride (25.4 g, 0.16 mol) and pyridine. The resulting mixture was stirred at room temperature for about 5.5 h, then was partitioned between aqueous NaHCO3 and EtOAc. The organic extract was washed successively with 10% aqueous NaOH, 3N HCl and saturated aqueous NaCl. The solvent was removed in vacuo, and the residue was crystallized from CH2Cl2 /hexanes to afford the title compound (19 g, 63%).

reactant | ethyl phenylglycine, hydrochloride | Cl.C(C)N(CC(=O)O)C1=CC=CC=C1
reactant | 4-fluorobenzoyl chloride | 0.16 mol, 25.4 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | CH3CN | 60 mL | CC#N | C2H3N
product | N-(4-Fluorobenzoyl)phenylglycine, ethyl ester | 19 g, 63% | FC1=CC=C(C(=O)N(CC(=O)OCC)C2=CC=CC=C2)C=C1 | C17H16FNO3
